US07799798B2
Synthesis of 1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-pyrrolo[3,2-c]pyridin]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one to replace 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one, the title compound was obtained: 1H NMR (300 MHz, CDCl3) δ 8.51 (br, 1H), 8.28 (br, 1H), 6.97-6.87 (m, 1H), 6.51 (s, 1H), 6.08 (s, 1H), 5.90-5.84 (m, 2H), 6.87 (d, 1H), 4.67 (d, 1H), 3.86-3.60 (m, 2H), 1.78-1.63 (m, 2H), 1.44-1.27 (m, 4H), 0.89 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 177.0, 156.0, 150.7, 149.6, 149.4, 143.1, 142.6, 117.7, 113.9, 102.6, 101.7, 93.9, 80.0, 56.7, 40.7, 28.9, 27.1, 22.2, 13.9; MS (ES+) m/z 353.4 (M+1).

reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=C1C=NC=C2)CCCCC)=O)CO | C20H22N2O5
reactant | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-pyrrolo[2,3-b]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=NC=CC=C21)CCCCC)=O)CO | C20H22N2O5
product | 1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-pyrrolo[3,2-c]pyridin]-2′(1′H)-one | C(CCCC)N1C(C2(C=3C=NC=CC31)COC=3C2=CC2=C(OCO2)C3)=O | C20H20N2O4
